US06465467B1
Step 1: 2-(2-Amino-8-quinolinyloxy)-ethanol.
A mixture of 2-amino-8-quinolinol (3.20 g, 20.0 mmol), ethylene carbonate (1.76 g, 20.0 mmol) and KO-t-Bu (2.24 g, 20.0 mmol) in DMF (20 mL) was stirred at 90° C. for 15 h. The mixture was poured into brine, extracted with EtOAc, dried (MgSO4), and concentrated under reduced pressure. The residue was purified by chromatography on silica gel using toluene/EtOAc/MeOH (50:50:2) as eluent to give 1.13 g (28%) of the title product as a solid. HRMS m/z calcd for C11H12N2O2 (M)+ 204.0899, found 204.0906.

reactant | 2-amino-8-quinolinol | 20.0 mmol, 3.20 g | NC1=NC2=C(C=CC=C2C=C1)O | C9H8N2O
reactant | ethylene carbonate | 20.0 mmol, 1.76 g | C1(OCCO1)=O | C3H4O3
reactant | KO-t-Bu | 20.0 mmol, 2.24 g | O([K])C(C)(C)C
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 2-(2-Amino-8-quinolinyloxy)-ethanol | 1.13 g, 28% | NC1=NC2=C(C=CC=C2C=C1)OCCO | C11H12N2O2
